US06599925B2
2-Cyclopentyl-1-[2-(6-methoxy-2-naphthyl)-1-benzofuran-3-yl]-1-ethanone
Following the procedure described in Step 2 of Example 1, 2-(6-methoxy-2-naphthyl)-1-benzofuran (6.00 g, 21.9 mmol) was acylated with 2-cyclopentylacetyl chloride (3.51 g, 23.9 mmol) using tin (IV) chloride (2.8 mL, 24 mmol) in carbon disulfide (120 mL). Purification by flash chromatography (Biotage apparatus) using 10-25% chloroform in hexane and 0.5-1% ethyl acetate in hexane as eluants furnished the title compound as a yellow gum (4.98 g); 1HNMR (200 MHz, DMSO-d6): δ8.35 (s, 1H), 8.0 (d, 3H, J=8.7 Hz), 7.8 (d, 1H, J=8.7 Hz), 7.7-7.8 (m, 1H), 7.35-7.5 (m, 3H), 7.2-7.35 (m, 1H), 3.95 (s, 3H), 2.75 (d, 2H, J=7.7 Hz), 2.1-2.3 (m, 1H), 1.5-1.75 (m, 2H), 1.3-1.5 (m, 4H), and 0.8-1.1 ppm (m, 2H).

reactant | 2-(6-methoxy-2-naphthyl)-1-benzofuran | 21.9 mmol, 6.00 g | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1)C=CC=C2 | C19H14O2
reactant | 2-cyclopentylacetyl chloride | 23.9 mmol, 3.51 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | tin (IV) chloride | 24 mmol, 2.8 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | carbon disulfide | 120 mL | C(=S)=S | CS2
product | 2-Cyclopentyl-1-[2-(6-methoxy-2-naphthyl)-1-benzofuran-3-yl]-1-ethanone | 4.98 g | C1(CCCC1)CC(=O)C1=C(OC2=C1C=CC=C2)C2=CC1=CC=C(C=C1C=C2)OC | C26H24O3
